US09388161B2
A 1-L, three-necked, round bottomed flask equipped with an overhead stirrer, thermocouple, and nitrogen inlet was charged with 2-amino-3-nitrophenol (17.5 g, 114 mmol), DMSO (280 mL), and 30% sulfuric acid (280 mL, 1575 mmol). The dark red-orange solution was heated to 50° C. After 45 min, heating was discontinued, and the solution was cooled to 3° C. (once the solution reached 13° C., a precipitate formed). Next, a solution of sodium nitrite (10.97 g, 159 mmol) in water (35 mL) was slowly added to the slurry while maintaining the internal temperature below 5° C.; the addition took ca. 5-7 min. The solution was stirred at 0° C. After 1 h, a solution of potassium iodide (52.8 g, 318 mmol) in water (105 mL) was slowly added over a 5 min period. After 1 h, the ice bath was removed, and the reaction mixture was allowed to warm to room temperature and stirred for 20 h. The reaction mixture was then extracted with methyl tert-butyl ether (1×800 mL and 1×400 mL). The combined methyl tert-butyl ether extracts were washed with 20% aqueous sodium thiosulfate solution (2×200 mL) followed by 5% aqueous sodium chloride solution (2×200 mL). The organic extract was concentrated under reduced pressure. Toluene (200 mL) was added and then removed under reduced pressure to afford 2-iodo-3-nitrophenol (30.2 g, 100%) as a brown powder. 1H NMR (400 MHz, CDCl3): δ 7.44 (dd, J=8.0, 1.5 Hz, 1H), 7.37 (t, J=8.0 Hz, 1H), 7.24 (dd, J=8.0, 1.5 Hz, 1H), 5.97 (br, 1H) ppm.

reactant | 2-amino-3-nitrophenol | 114 mmol, 17.5 g | NC1=C(C=CC=C1[N+](=O)[O-])O | C6H6N2O3
reactant | sulfuric acid | 1575 mmol, 280 mL | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | 159 mmol, 10.97 g | N(=O)[O-].[Na+]
reactant | potassium iodide | 318 mmol, 52.8 g | [I-].[K+]
solvent | water | 35 mL | O | H2O
solvent | water | 105 mL | O | H2O
solvent | DMSO | 280 mL | CS(=O)C | C2H6OS
product | 2-iodo-3-nitrophenol | 30.2 g, 100% | IC1=C(C=CC=C1[N+](=O)[O-])O | C6H4INO3
